US09387200B2
a) 4-Ethyl-7-hydroxy-3-methyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester
The title compound was synthesized in analogy to Example 28 from 4-bromo-7-hydroxy-3-methyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester and tetraethyltin: MS (m/z) 295.2 (M+1).

reactant | 4-bromo-7-hydroxy-3-methyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester | C(CCC)OC(=O)C1=C(C2=C(C(=N1)Br)C(=NS2)C)O | C12H13BrN2O3S
reactant | tetraethyltin | C(C)[Sn](CC)(CC)CC
product | 4-Ethyl-7-hydroxy-3-methyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester | C(CCC)OC(=O)C1=C(C2=C(C(=N1)CC)C(=NS2)C)O | C14H18N2O3S
